US04010202
In 200 volume parts of ethanol is dissolved 2 parts of 2-amino-1,5,6-trihydroxy-1,2,3,4-tetrahydronaphthalene hydrobromide, followed by the addition of 20 parts of β-phenylpropionaldehyde to produce 2-(3-phenylpropylideneamino)-1,5,6-trihydroxy-1,2,3,4-tetrahydronaphthalene. Using palladium-on-carbon as a catalyst, the reaction mixture is subjected to catalytic reduction at ordinary temperature and pressure. After a stoichiometric amount of hydrogen has been absorbed, the reaction mixture is filtered to remove the catalyst and, then, 5000 volume parts of ethyl ether is added to the filtrate. The procedure yields 2 parts of 2-(3-phenylpropylamino)-1,5,6-trihydroxy-1,2,3,4-tetrahydronaphthalene hydrobromide as white crystals melting at 136°-139° C (decomposition).

reactant | β-phenylpropionaldehyde | C1(=CC=CC=C1)CCC=O | C9H10O
reactant | 2-amino-1,5,6-trihydroxy-1,2,3,4-tetrahydronaphthalene hydrobromide | Br.NC1C(C2=CC=C(C(=C2CC1)O)O)O
solvent | ethanol | C(C)O | C2H6O
product | 2-(3-phenylpropylideneamino)-1,5,6-trihydroxy-1,2,3,4-tetrahydronaphthalene | C1(=CC=CC=C1)CCC=NC1C(C2=CC=C(C(=C2CC1)O)O)O | C19H21NO3
